US06025177
Synthesis of cyclohexylglyoxylic acid:
To a solution of ethyl cyclohexyloxoacetate (46 g) in MeOH (25 mL) was added water (60 mL) and NaOH (50% 20 mL) at 0-15° C. The reaction mixture was heated to 60° C. for 1.5 h. The reaction mixture was cooled with ice-water bath, and acidified with 15% HCl till pH 1. The mixture was extracted with ethyl acetate (2×250 mL). The extracts were washed with brine, dried with sodium sulfate. The drying agent was removed by filtration and the solvent was removed to give a low melting solid (39 g, 99%). 1H NMR: δ 1.15-1.40 (m, 5H,), 1.62-1.96 (m, 5H). 3.20 (m, 1H), 9.4 (s, 1H). 13C-NMR δ, 25.93, 25.76, 27.89, 45.04, 160.90, 198.29.

reactant | ethyl cyclohexyloxoacetate | 46 g | C1(CCCCC1)C(C(=O)OCC)=O | C10H16O3
reactant | water | 60 mL | O | H2O
reactant | NaOH | 20 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 25 mL | CO | CH4O
product | cyclohexylglyoxylic acid | 39 g, 99% | C1(CCCCC1)C(C(=O)O)=O | C8H12O3
